US07169778B2
3. 2-[[4-(Diethylaminocarbonyl)phenyl]amino]-4-(methylamino)-5-nitropyrimidine
To a room temperature solution of 0.943 g (5 mmol) of 2-chloro-4-(methylamino)-5-nitropyrimidine in 25 mL THF is added a solution of 2.11 g (11 mmol) of 4-amino-N,N-diethylbenzamide in 100 mL of 2-propanol, and the resulting mixture is heated and stirred at reflux for 1 hour. The mixture is then diluted with water, the solid precipitate is collected, washed with water, and dried, to give 1.50 g (87%) of the title compound: mp (EtOH) 213–215° C.

reactant | 2-chloro-4-(methylamino)-5-nitropyrimidine | 5 mmol, 0.943 g | ClC1=NC=C(C(=N1)NC)[N+](=O)[O-] | C5H5ClN4O2
reactant | 4-amino-N,N-diethylbenzamide | 11 mmol, 2.11 g | NC1=CC=C(C(=O)N(CC)CC)C=C1 | C11H16N2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
solvent | water | O | H2O
product | 2-[[4-(Diethylaminocarbonyl)phenyl]amino]-4-(methylamino)-5-nitropyrimidine | 1.50 g, 87% | C(C)N(C(=O)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC)[N+](=O)[O-])CC | C16H20N6O3
